US06800651B2
N-(3-(2-Methoxyphenoxy)phenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine
Using the method of Example 342 using N-(3-(2-methoxyphenoxy)phenyl)pyridin-3-ylmethylamine and ethanesulfonyl chloride (Aldrich) and purifying via preparative HPLC eluting with 98:2 to 96:4 DCM/MeOH gave the title compound. Anal Calcd for C21H22N2O4S: C, 63.30; H, 5.56; N, 7.03. Found: C, 63.16; H, 5.51; N, 6.64. MS found 398.9 [M+H]+

reactant | N-(3-(2-methoxyphenoxy)phenyl)pyridin-3-ylmethylamine | COC1=C(OC=2C=C(C=CC2)NCC=2C=NC=CC2)C=CC=C1 | C19H18N2O2
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(3-(2-Methoxyphenoxy)phenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | COC1=C(OC=2C=C(C=CC2)N(S(=O)(=O)CC)CC=2C=NC=CC2)C=CC=C1 | C21H22N2O4S
